US08138178B2
(R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-(2-oxopyrrolidin-1-yl)propyl)-6-phenyl-1,3-oxazinan-2-one was prepared from (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one following an analogous procedure using pyrrolidin-2-one in Step 2.

reactant | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCO)=O | C21H24BrNO3
reactant | pyrrolidin-2-one | N1C(CCC1)=O | C4H7NO
product | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-(2-oxopyrrolidin-1-yl)propyl)-6-phenyl-1,3-oxazinan-2-one | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCN1C(CCC1)=O)=O | C25H29BrN2O3
